US04179514
Preparation of 2-[[O-[N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl]oximino]]-1,4-dithiane
Prepared as in Example 1 by reacting 8.0 g (0.053 m) of 2-oximino-1,4-dithiane, 15.2 g (0.058 m) of N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride and 5.42 g (0.053 m) of triethylamine in 100 ml of dioxane. The product crystallized from isopropyl ether-ethyl acetate to yield 4.3 g of a white solid, (m.p. 80°-82° C.) Recrystallization raised the melting point to 85°-86° C.

reactant | 2-oximino-1,4-dithiane | 8.0 g | N(O)=C1SCCSC1 | C4H7NOS2
reactant | N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride | 15.2 g | CN(C(=O)Cl)SC(C)(C(C(C)C)=O)C | C9H16ClNO2S
reactant | triethylamine | 5.42 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[[O-[N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl]oximino]]-1,4-dithiane | CN(C(=O)ON=C1SCCSC1)SC(C)(C(C(C)C)=O)C | C13H22N2O3S3
